US04954507
3-HYDROXY-4-AMINOMETHYL-1-PHENYLMETHYL PYRROLIDINE
In a dry flask was place 1.34 g (35.0 mmol) of lithium aluminum hydride in 20 ml dry tetrahydrofuran cooled to -5° C. To this suspension was added dropwise 2.58 g (11.7 mmol) of 3-hydroxy-4-aminocarbonyl-1-phenylmethyl pyrrolidine. After completion of addition the suspension was warmed 2 hours under reflux, cooled. It was successively added 35 ml dichloromethane, 50 ml tetrahydrofuran and 2.3 ml water. The suspension was passed through a celite pad. The solvent removed to give 2.19 g (90.8%) of title compound as an oil.

reactant | lithium aluminum hydride | 35.0 mmol, 1.34 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-hydroxy-4-aminocarbonyl-1-phenylmethyl pyrrolidine | 11.7 mmol, 2.58 g | OC1CN(CC1C(=O)N)CC1=CC=CC=C1 | C12H16N2O2
reactant | dichloromethane | 35 ml | ClCCl | CH2Cl2
reactant | water | 2.3 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-HYDROXY-4-AMINOMETHYL-1-PHENYLMETHYL PYRROLIDINE | 2.19 g, 90.8% | OC1CN(CC1CN)CC1=CC=CC=C1 | C12H18N2O
